US09029401B2
5-Chloro-pyridine-2-carboxylic acid tert-butyl ester
To a solution of 5-chloropyridine-2-carboxylic acid (4 g, 25.4 mmol) in acetonitrile (250 mL) were added DMAP (0.3 g, 2.54 mmol) and TEA (5.3 mL, 38.1 mmol) at 0° C. followed by a solution of Boc2O (8.3 g, 38.1 mmol) in acetonitrile (50 mL). The resulting light brown solution was warmed up to room temperature and stirred overnight. The solvent was removed in vacuo to afford a white solid which was purified by column chromatography (4:1 Hexanes: EtOAc) to give a white solid (4.5 g, 83% yield). mp 86.3-88.3° C. 1H NMR (300 MHz, DMSO-d6: δ 8.75 (dd, J=2 and 1 Hz, 1H), 8.11 (dd, J=8 and 2 Hz, 1H), 8.00 (dd, J=8 Hz, 1H), 1.55 (s, 9H).

reactant | 5-chloropyridine-2-carboxylic acid | 25.4 mmol, 4 g | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | Boc2O | 38.1 mmol, 8.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
catalyst | DMAP | 2.54 mmol, 0.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-Chloro-pyridine-2-carboxylic acid tert-butyl ester | 4.5 g, 83% yield | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)Cl | C10H12ClNO2
